US07250418B2
Preparation of 6-methoxy-2-(trifluoromethyl)pyridin-3-amine
To a solution of 6-methoxy-3-nitro-2-(trifluoromethyl)pyridine (3.61 g) in 95% Ethyl alcohol (162 ml) was added tin(II) chloride dihydrate. It was heated to 70° C. for 3 hr. After it was cooled to room temperature, it was poured over ice water and adjusted to pH 11 with 2N NaOH. It was stirred well with ethyl acetate and filtered through celite. The organic phase was separated, washed with brine, dried (MgSO4), filtered and concentrated. The flash column chromatography (SiO2, 3˜8% EtOAc in heptane) gave the title compounds (2.20 g, 71%). 1H NMR (CDCl3) δ 3.81, 6.70, 7.05; 19F NMR (CDCl3) δ 65.73; IR (liq.) 2434 (w), 2389, 2272, 2229, 2174, 1488 (s), 1436 (s), 1426 (s), 1276 (s), 1170 (s), 1102 (s, b), 1050 (s), 1024 (s), 740 (s), 658 (s) cm−1 HRMS (ESI) calcd for C7H7N2OF3+H1 193.0589. found 193.0581. Anal. Calcd for C7H7F3N2O: C, 43.76; H, 3.67; N, 14.58; F, 29.66. Found: C, 43.61; H, 3.49; N, 14.49.

reactant | 6-methoxy-3-nitro-2-(trifluoromethyl)pyridine | 3.61 g | COC1=CC=C(C(=N1)C(F)(F)F)[N+](=O)[O-] | C7H5F3N2O3
reactant | tin(II) chloride dihydrate | O.O.[Sn](Cl)Cl
reactant | NaOH | 2N | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Ethyl alcohol | 162 ml | C(C)O | C2H6O
product | 6-methoxy-2-(trifluoromethyl)pyridin-3-amine | 2.20 g, 71% | COC1=CC=C(C(=N1)C(F)(F)F)N | C7H7F3N2O
